US04280008
3. α-Isocyanopropionic acid (+)-3-pinylmethylamide
A mixture of 5.7 g (50 mmoles) of methyl α-isocyanopropionate and 8.3 g (50 mmoles) of (+)-3-aminomethylpinane is stirred for 15 hours at room temperature, initially with slight cooling. After distilling off the resulting methanol in a high vacuum at 80° C., 11.6 g of crystalline α-isocyanopropionic acid (+)-3-pinylmethylamide of melting point 58°-59° C. remain. IR spectrum (KBr): 3,230 (N--H), 2,130 (N≡C), 1,670 cm-1 (C=O).

reactant | methyl α-isocyanopropionate | 50 mmoles, 5.7 g | [N+](#[C-])C(C(=O)OC)C | C5H7NO2
reactant | (+)-3-aminomethylpinane | 50 mmoles, 8.3 g | NCC1C(C2C(C(C1)C2)(C)C)C | C11H21N
product | α-Isocyanopropionic acid (+)-3-pinylmethylamide | C12C(C(CC(C1(C)C)C2)CNC(C(C)[N+]#[C-])=O)C | C15H24N2O
